US04958019
Synthesis of pivaloyloxymethyl 7-amino-3-[(2-methoxymethyl -5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylate
In 80 ml of acetone was suspended 16.9 g of 7-amino-3-[(2-methoxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylic acid and ice-cooled, and then 5.98 ml of 1,5-diazabicyclo[5.4.0]undec-5-ene (DBU) was added dropwise to the solution and the mixture was stirred for 30 minutes. After 9.68 g of pivaloyloxymethyl iodide was added dropwise to the mixture, the mixture was stirred at room temperature for 20 minutes. After the reaction mixture was poured into a mixed solution of 280 ml of ethyl acetate and 200 ml of water and stirred, an organic layer was separated therefrom, washed with water, further washed with a saturated saline solution and dried over anhydrous magnesium sulfate. By removing a solvent, an oily product was obtained. This oily product was purified through silica gel column chromatography. To the oily product obtained was added ether to powderize, and it was collected by filtration and dried to obtain 10.17 g of the title compound.

reactant | 7-amino-3-[(2-methoxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylic acid | 16.9 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CC(=NC=3N2N=C(N3)COC)C)C(=O)O)C1=O | C16H18N6O4S2
reactant | 1,5-diazabicyclo[5.4.0]undec-5-ene | 5.98 ml | N12CCCN=CC2CCCC1 | C9H16N2
reactant | pivaloyloxymethyl iodide | 9.68 g | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | ethyl acetate | 280 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | 80 ml | CC(=O)C | C3H6O
solvent | ether | CCOCC | C4H10O
solvent | water | 200 ml | O | H2O
product | pivaloyloxymethyl 7-amino-3-[(2-methoxymethyl -5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylate | 10.17 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CC(=NC=3N2N=C(N3)COC)C)C(=O)OCOC(C(C)(C)C)=O)C1=O | C22H28N6O6S2
